US07728144B2
Biphenyl-2-ylcarbamic Acid 1-[2-(4-Aminomethylphenylcarbamoyl)ethyl]piperidin-4-yl Ester
To a stirred solution of 4-(N-tert-butoxycarbonylaminomethyl)aniline (756 mg, 3.4 mmol), 3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionic acid (1.5 g, 4.08 mmol; prepared as described in Preparation 11) and HATU (1.55 g, 4.08 mmol) in DMF (6.8 mL), was added DIPEA (770 mL, 4.42 mmol). The reaction mixture was stirred at 50° C. overnight, and then the solvent was removed under reduced pressure. The resulting residue was dissolved in DCM (20 mL) and washed with saturated aqueous sodium bicarbonate solution (10 mL). The organic phase was then dried over MgSO4 and the solvent was removed under reduced pressure. The crude product was purified by flash chromatography (5-10% MeOH/DCM) to give a solid, which was dissolved in TFA/DCM (25%, 30 mL) and stirred at room temperature for 2 hours. The solvent was then removed under reduced pressure and the crude residue was dissolved in DCM (30 mL) and washed with 1N NaOH (15 mL). The organic phase was separated, dried over MgSO4, filtered and the solvent was removed under reduced pressure to give 1.5 g of the title intermediate (94% yield over 2 steps).

reactant | 4-(N-tert-butoxycarbonylaminomethyl)aniline | 3.4 mmol, 756 mg | C(C)(C)(C)OC(=O)NCC1=CC=C(N)C=C1 | C12H18N2O2
reactant | 3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionic acid | 4.08 mmol, 1.5 g | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)O)C1=CC=CC=C1 | C21H24N2O4
reactant | HATU | 4.08 mmol, 1.55 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.42 mmol, 770 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6.8 mL | CN(C)C=O | C3H7NO
solvent | TFA DCM | 30 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | Biphenyl-2-ylcarbamic Acid 1-[2-(4-Aminomethylphenylcarbamoyl)ethyl]piperidin-4-yl Ester | 1.5 g, 94% yield | NCC1=CC=C(C=C1)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C28H32N4O3
